US04764202
470 g of 3,5-dichloro-2,4-difluorobenzotrifluoride in 1000 ml of ethanol are initially introduced, and 142 g of hydrazine hydrate are metered in, and the mixture is then heated under reflux for 3 hours. Thereafter, the solvent is distilled off under reduced pressure and the residue is stirred into 1 l of cold water. After 30 minutes, the mixture is filtered under suction and the solid product is dried in a through-circulation oven. 445 g of 2,6-dichloro-3-fluoro-4-trifluoromethyl-phenylhydrazine having a melting point of 50° to 51° C. are obtained.

reactant | 3,5-dichloro-2,4-difluorobenzotrifluoride | 470 g | ClC=1C(=C(C=C(C1F)Cl)C(F)(F)F)F | C7HCl2F5
reactant | hydrazine hydrate | 142 g | O.NN
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 2,6-dichloro-3-fluoro-4-trifluoromethyl-phenylhydrazine | 445 g | ClC1=C(C(=CC(=C1F)C(F)(F)F)Cl)NN | C7H4Cl2F4N2
